US07576135B2
2-[(5-chloropyridin-2-yl)(methyl)amino]-2-oxoacetic acid methyl ester
The method described in Referential Example 242 was performed by use of 5-chloro-N-methyl-2-pyridinamine and methyl chlorooxoacetate, whereby the title compound was obtained. 1H-NMR(CDCl3)δ: 3.43(3H, s), 3.81(3H, s), 7.08(1H, br.s), 7.68-7.78(1H, m), 8.27(1H, br.s).

reactant | 5-chloro-N-methyl-2-pyridinamine | ClC=1C=CC(=NC1)NC | C6H7ClN2
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-[(5-chloropyridin-2-yl)(methyl)amino]-2-oxoacetic acid methyl ester | COC(C(=O)N(C)C1=NC=C(C=C1)Cl)=O | C9H9ClN2O3
